US05952319
Androsta-4,6-diene-3,11,17-trione (A-2)
Adrenosterone (androst-4-ene-3,11,17-trione, A-1, 50 g, 166.7 mmol) was dissolved in dioxane (1200 mL, dry), which had been saturated with HCl gas at 10° C. under argon, and a chilled solution of 2,3-dichloro-5,6-dicyanoquionone (DDQ, 50 g, 220 mmol) in hydrogen chloride saturated dioxane (450 mL) was added slowly to the stirred solution. Solid dihydro-DDQ rapidly separated from the solution. After 1.5 h, the mixture was filtered through a sintered glass funnel, most of the dioxane was evaporated under reduced pressure and the residue was chromatographed over silica gel (1000 g) using chloroform as the eluting solvent. The light-yellowish material from evaporation of the eluate was 48.7 g of the dienone compound A-2: mp 237° C.; UV (MeOH) λmax 278 nm (ε 24,600); IR (CHCl3) 1745 (17-C=0), 1705 (11-C=0) and 1650 (3-conjugated C=0)cm-1 ; 1H NMR (CDCl3) δ 0.9(s,3, 18-CH3), 1.32 (s, 3, 19-CH3), 5.63 (s, 1, 4-H) and 6.13 (s, 2, 6- and 7-H); m/z 298 (M+).

reactant | Adrenosterone | 166.7 mmol, 50 g | C[C@]12CCC(=O)C=C1CC[C@@H]3[C@@H]2C(=O)C[C@]4([C@H]3CCC4=O)C | C19H24O3
solvent | dioxane | 1200 mL | O1CCOCC1 | C4H8O2
solvent | hydrogen chloride | 450 mL | Cl | ClH
product | Androsta-4,6-diene-3,11,17-trione | C[C@@]12C(CC[C@H]1[C@@H]1C=CC3=CC(CC[C@]3(C)[C@H]1C(C2)=O)=O)=O | C19H22O3
